US08017611B2
Sodium hydride (2.03 g, 60% in oil) was added portionwise to a ice-cooled solution of tert-butyl 3-hydroxyazetidine-1-carboxylate (8 g) in DMF (20 ml). The mixture was stirred at 0° C. for 20 minutes and benzyl 2-bromoethyl ether (8.03 ml) was added. The mixture was heated at 80° C. for 18 hours. After cooling, the mixture was diluted in water and extracted with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate. Evaporation of the solvent and chromatography on silica gel (eluting with 20% to 50% ethyl acetate in petroleum ether gave tert-butyl 3-(2-benzyloxyethoxy)azetidine-1-carboxylate (9.15 g).

reactant | Sodium hydride | 2.03 g | [H-].[Na+]
reactant | tert-butyl 3-hydroxyazetidine-1-carboxylate | 8 g | OC1CN(C1)C(=O)OC(C)(C)C | C8H15NO3
reactant | benzyl 2-bromoethyl ether | 8.03 ml | BrCCOCC1=CC=CC=C1 | C9H11BrO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-butyl 3-(2-benzyloxyethoxy)azetidine-1-carboxylate | 9.15 g | C(C1=CC=CC=C1)OCCOC1CN(C1)C(=O)OC(C)(C)C | C17H25NO4
